### PR TITLE
Fix category duality

### LINKED ISSUE #602: duality in category theory
A lot of our category theory code is doubled in size because notions and their duals get separate definitions and proofs.  Is there a way to economize?

More specifically, is ElementsOp needed?  If so, can its statements be corollaries of those in Elements?  The file is used here: https://github.com/mweav/UniMath/blob/elems-slice-equiv/UniMath/CategoryTheory/elems_slice_equiv.v

See Anders' comment here: https://github.com/UniMath/UniMath/pull/590#issuecomment-281938037

### PR DESCRIPTION
**Pull request by DanGrayson**
... so C^op^op = C judgmentally

Also (C × D)^op = (C^op × D^op) and
product_precategory (λ i, (C i)^op) = (product_precategory C)^op.

This involves changing the end of some proofs of "is_precategory" from
Qed to Defined, for transparency.

See PR #852, which this replaces.

This resolves #602.

### CODE REVIEW

File: UniMath/CategoryTheory/CommaCategories.v [hunk 1]
```diff
@@ -106,7 +106,9 @@ Proof.
     simpl. apply id_right.
   - intros. apply cComma_mor_eq.
     simpl. apply assoc.
-Qed.
+  - intros. apply cComma_mor_eq.
+    simpl. apply assoc'.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/CommaCategories.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/DisplayedCats/Auxiliary.v [hunk 2]
```diff
@@ -128,7 +128,8 @@ Proof.
   (* id_left *) apply dirprod_paths; simpl; apply id_left.
   (* id_right *) apply dirprod_paths; simpl; apply id_right.
   (* assoc *) apply dirprod_paths; simpl; apply assoc.
-Qed.
+  (* assoc' *) apply dirprod_paths; simpl; apply assoc'.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/Auxiliary.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/Elements.v [hunk 3]
```diff
@@ -64,11 +64,12 @@ Qed.
...
 Lemma is_precategory_cat_of_elems_data : is_precategory cat_of_elems_data.
 Proof.
-split; [split|]; intros; apply cat_of_elems_mor_eq.
+split; [split|split]; intros; apply cat_of_elems_mor_eq.
 + apply id_left.
 + apply id_right.
 + apply assoc.
-Qed.
++ apply assoc'.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Elements.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/ElementsOp.v [hunk 4]
```diff
@@ -62,11 +62,12 @@ Qed.
...
 Lemma is_precategory_cat_of_elems_data : is_precategory cat_of_elems_data.
 Proof.
-split; [split|]; intros; apply cat_of_elems_mor_eq.
+split; [split|split]; intros; apply cat_of_elems_mor_eq.
 + apply id_left.
 + apply id_right.
 + apply assoc.
-Qed.
++ apply assoc'.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/ElementsOp.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/FunctorAlgebras.v [hunk 5]
```diff
@@ -147,7 +147,10 @@ Proof.
   - apply algebra_mor_eq.
     + apply hs.
     + apply assoc.
-Qed.
+  - apply algebra_mor_eq.
+    + apply hs.
+    + apply assoc'.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/FunctorAlgebras.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/Monads/LModules.v [hunk 6]
```diff
@@ -165,7 +165,9 @@ Proof.
     apply (@id_right (functor_precategory B C hs)).
   - apply (invmap (LModule_Mor_equiv hs _ _ )).
     apply (@assoc (functor_precategory B C hs)).
-Qed.
+  - apply (invmap (LModule_Mor_equiv hs _ _ )).
+    apply (@assoc' (functor_precategory B C hs)).
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monads/LModules.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/Monads/Monads.v [hunk 7]
```diff
@@ -190,7 +190,9 @@ Proof.
     apply (@id_right (functor_precategory C C hs)).
   - apply (invmap (Monad_Mor_equiv hs _ _ )).
     apply (@assoc (functor_precategory C C hs)).
-Qed.
+  - apply (invmap (Monad_Mor_equiv hs _ _ )).
+    apply (@assoc' (functor_precategory C C hs)).
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monads/Monads.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/Monoidal/CategoriesOfMonoids.v [hunk 8]
```diff
@@ -124,7 +124,10 @@ Proof.
   - apply monoid_mor_eq.
     + apply hs.
     + apply assoc.
-Qed.
+  - apply monoid_mor_eq.
+    + apply hs.
+    + apply assoc'.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/CategoriesOfMonoids.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/PointedFunctors.v [hunk 9]
```diff
@@ -103,7 +103,9 @@ Proof.
     apply (@id_right (functor_precategory _ _ hs )).
   - apply (invmap (eq_ptd_mor _ _ )).
     apply (@assoc (functor_precategory _ _ hs)).
-Qed.
+  - apply (invmap (eq_ptd_mor _ _ )).
+    apply (@assoc' (functor_precategory _ _ hs)).
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/PointedFunctors.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/PreAdditive.v [hunk 10]
```diff
@@ -836,19 +836,32 @@ Section preadditive_quotient.
...
+        set (g'' := @issurjsetquotpr (to_abgr b c) (binopeqrel_subgr_eqrel (PAS b c)) g).
+        use (squash_to_prop g''). apply isasetsetquot. intros g'. clear g''.
+        set (h'' := @issurjsetquotpr (to_abgr c d) (binopeqrel_subgr_eqrel (PAS c d)) h).
+        use (squash_to_prop h''). apply isasetsetquot. intros h'. clear h''.
+        induction f' as [f1 f2]. induction g' as [g1 g2]. induction h' as [h1 h2].
+        cbn in f1, g1, h1.
+        rewrite (Quot_assoc1 f g h f1 f2 g1 g2 h1 h2).
+        rewrite <- (Quot_assoc2 f g h f1 f2 g1 g2 h1 h2).
+        rewrite assoc'. apply idpath.
+  Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/PreAdditive.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/Subcategory/Core.v [hunk 11]
```diff
@@ -162,9 +162,12 @@ Proof.
...
   apply id_right.
   apply eq_in_sub_precategory.
-  simpl.
+  cbn.
   apply assoc.
-Qed.
+  apply eq_in_sub_precategory.
+  cbn.
+  apply assoc'.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Subcategory/Core.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/categories/setwith2binops.v [hunk 12]
```diff
@@ -61,7 +61,8 @@ Section def_setwith2binop_precategory.
     - intros a b f. use setwith2binop_id_left.
     - intros a b f. use setwith2binop_id_right.
     - intros a b c d f g h. use setwith2binop_assoc.
-  Qed.
+    - intros a b c d f g h. apply pathsinv0, setwith2binop_assoc.
+  Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/categories/setwith2binops.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/category_binops.v [hunk 13]
```diff
@@ -67,7 +67,10 @@ Section BINOPS_precategory.
 
     intros a b c d f g h. apply pathsinv0.
     apply (binopfuncomp_assoc a b c d f g h).
-  Qed.
+
+    intros a b c d f g h.
+    apply (binopfuncomp_assoc a b c d f g h).
+  Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/category_binops.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/coslicecat.v [hunk 14]
```diff
@@ -83,7 +83,9 @@ Proof.
   * apply id_right.
   * intro; apply sets.
   * apply assoc.
-Qed.
+  * intro; apply sets.
+  * apply assoc'.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/coslicecat.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/limits/cones.v [hunk 15]
```diff
@@ -164,7 +164,11 @@ Proof.
   intros;
   apply Cone_Mor_eq;
   simpl; apply assoc.
-Qed.
+
+  intros;
+  apply Cone_Mor_eq;
+  simpl; apply assoc'.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/cones.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/slicecat.v [hunk 16]
```diff
@@ -130,7 +130,9 @@ repeat split; simpl.
   apply subtypePairEquality; [ intro; apply hsC | apply id_right ].
 * intros a b c d f g h.
   apply subtypePairEquality; [ intro; apply hsC | apply assoc ].
-Qed.
+* intros a b c d f g h.
+  apply subtypePairEquality; [ intro; apply hsC | apply assoc' ].
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/slicecat.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/SubstitutionSystems/SignatureCategory.v [hunk 17]
```diff
@@ -135,7 +135,9 @@ repeat split; simpl.
   apply (nat_trans_eq (functor_category_has_homsets _ _ hsD)); intros X; apply id_right.
 - intros Ht1 Ht2 Ht3 Ht4 F1 F2 F3; apply SignatureMor_eq; simpl.
   apply (nat_trans_eq (functor_category_has_homsets _ _ hsD)); intros X; apply assoc.
-Qed.
+- intros Ht1 Ht2 Ht3 Ht4 F1 F2 F3; apply SignatureMor_eq; simpl.
+  apply (nat_trans_eq (functor_category_has_homsets _ _ hsD)); intros X; apply assoc'.
+Defined.
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/SignatureCategory.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/SubstitutionSystems/SubstitutionSystems.v [hunk 18]
```diff
@@ -627,7 +627,9 @@ Proof.
     apply (@id_right EndC).
   - apply (invmap (hssMor_eq _ _ _ _ )).
     apply (@assoc EndC).
-Qed.
+  - apply (invmap (hssMor_eq _ _ _ _ )).
+    apply (@assoc' EndC).
+Defined.
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/SubstitutionSystems.v]: Is this change from `Qed.` to `Defined.` necessary?

File: UniMath/CategoryTheory/PreAdditive.v [hunk 19]
```diff
@@ -836,19 +836,32 @@ Section preadditive_quotient.
...
-      use (squash_to_prop g''). apply isasetsetquot. intros g'. clear g''.
-      set (h'' := @issurjsetquotpr (to_abgr c d) (binopeqrel_subgr_eqrel (PAS c d)) h).
-      use (squash_to_prop h''). apply isasetsetquot. intros h'. clear h''.
-      induction f' as [f1 f2]. induction g' as [g1 g2]. induction h' as [h1 h2].
-      cbn in f1, g1, h1.
-      rewrite (Quot_assoc1 f g h f1 f2 g1 g2 h1 h2).
-      rewrite <- (Quot_assoc2 f g h f1 f2 g1 g2 h1 h2).
-      rewrite assoc. apply idpath.
-  Qed.
+    - split.
```
Comment (siddharthist) [inline UniMath/CategoryTheory/PreAdditive.v]: Can you use `mk_precategory_one_assoc` here in order to avoid duplication?

**Comment by DanGrayson** [comment]
About the changes from Qed to Defined: yes, they are necessary to get the full range of definitional equalities that one may desire.  One them arranges that (C × D)^op = (C^op × D^op).  Something similar will hold for comma categories, and so on.

Meanwhile, on my branch where I'm defining exact categories in the sense of Quillen, I will arrange for duality to work judgmentally for them and also for their predecessors: precategoryWithBinOps, categoryWithAbgrops, PreAdditive, and Additive

**Comment by DanGrayson** [comment]
@siddharthist : Re: " It seems uncommon to want to specify both associativity proofs."

No, if one wants the gamut of preservation of judgmental equalities, then one must, in a construction F of one category, F(C),  from another, C, arrange that interchanging the two associativity statements being proved is the same as interchanging the two associativity statements being used, so that F(C^op) = (F(C))^op.

File: UniMath/CategoryTheory/PreAdditive.v (hunk 19 above)
Comment (DanGrayson) [reply UniMath/CategoryTheory/PreAdditive.v]: See my other answer at https://github.com/UniMath/UniMath/pull/1030#issuecomment-433717355

**Comment by benediktahrens** [comment]
Is there a substantial increase in compile time from these `Defined.`?
Will there be in the future, when we have more code about those categories?

**Comment by DanGrayson** [comment]
One of them had a bad effect on timing, but that was in HomologicalAlgebra, which is too slow, anyway, so I reverted it to Qed.

The net effect of my pull request is virtually nil, with a tiny improvement.

Before:
```
real	20m8.459s
user	18m46.863s
sys	0m43.325s
```
After:
```
real	19m34.708s
user	18m41.962s
sys	0m41.463s
```

I don't know how to predict what will happen in the future, but in the near term, having more judgmental equalities will save human time.

**Comment by DanGrayson** [comment]
Here is an example of the sort of proof by duality now possible:
```
  Lemma IsoWithKernel {M:Additive} {x y z z':M} (f : x --> y) (g : y --> z) (h : z --> z') :
    isKernel' f g -> is_z_isomorphism h -> isKernel' f (g·h).
  Proof.
    intros i j.
    exists (assoc _ _ _ @ maponpaths (postcomp_with _) (pr1 i) @ zeroLeft h).
    intros w q e.
    apply iscontraprop1.
    { apply invproofirrelevance. intros [r R] [s S]. apply subtypeEquality_prop; cbn.
      apply (KernelIsMonic _ _ i). exact (R @ !S). }
    apply (pr2 i).
    refine (post_comp_with_iso_is_inj _ _ _ h (is_iso_from_is_z_iso h j) _ _ _ _).
    refine (! assoc _ _ _ @ e @ ! zeroLeft _).
  Qed.
  Lemma IsoWithCokernel {M:Additive} {x x' y z:M} (f : x --> y) (g : y --> z) (h : x' --> x) :
    isCokernel' f g -> is_z_isomorphism h -> isCokernel' (h·f) g.
  Proof.
    exact (λ c i, IsoWithKernel (M:=M^op) g f h c (opp_is_z_isomorphism h i)).
  Qed.
```
